US06297235B1
a) 4-Phenylpyridazine-3,6-dione
Phenylmaleic anhydride (20 g, 115 mmol), sodium acetate trihydrate (1875 g, 138 mmol), hydrazine monohydrate (6.68 ml, 133 mmol) and 40% aqueous acetic acid (400 ml) were heated at reflux for 15 h then allowed to cool. The reaction mixture was left to cool in the fridge for 1 h. The solid produced was filtered and washed with water and diethyl ether before drying in a vacuum oven at 40° C. to give the required product (7.26 g). 1H NMR (250 MHz, DMSO) δ 3.43 (2H, broad peak), 7.17 (1H, s), 7.44 (3H, m), 7.81 (2H, m); MS (ES+) m/e 189 [MH+].

reactant | Phenylmaleic anhydride | 115 mmol, 20 g | C1(=CC=CC=C1)/C=1/C(=O)OC(\C1)=O | C10H6O3
reactant | sodium acetate trihydrate | 138 mmol, 1875 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | hydrazine monohydrate | 133 mmol, 6.68 ml | O.NN
solvent | acetic acid | 400 ml | C(C)(=O)O | C2H4O2
product | 4-Phenylpyridazine-3,6-dione | 7.26 g | C1(=CC=CC=C1)C=1C(N=NC(C1)=O)=O | C10H6N2O2
